US08471005B2
2-(4-{4-[7-(2-Fluoro-6-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide
Following the synthetic and purification procedures of Example 1291c, 7-(2-Fluoro-6-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (79 mg, 0.26 mmol) was coupled to 2-[4-(4-amino-phenyl)-piperidin-1-yl]-acetamide (91 mg, 0.39 mmol) in a sealed vial at 125° C. for 96 h followed by 6 h in a microwave reactor at 170° C. Yield of

reactant | 7-(2-Fluoro-6-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.26 mmol, 79 mg | FC1=C(C(=CC=C1)OC)C1=CC=C2C=NC(=NN21)S(=O)C | C14H12FN3O2S
reactant | 2-[4-(4-amino-phenyl)-piperidin-1-yl]-acetamide | 0.39 mmol, 91 mg | NC1=CC=C(C=C1)C1CCN(CC1)CC(=O)N | C13H19N3O
product | 2-(4-{4-[7-(2-Fluoro-6-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | FC1=C(C(=CC=C1)OC)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N | C26H27FN6O2
